US05362742
A mixture of 3-(5-acetoxy-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-ylcarbonyl)amino-4-(2-chlorophenyl) -6,8-dimethylquinoline (400 ml) and 6.92N-hydrochloric acid-methanol solution (10 ml) was stirred at room temperature for eight hours. After addition of water, the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), then concentrated. The residue was purified by a silica gel column chromatography with hexane-ethyl acetate (3:1,V/V), and then crystallized from isopropyl ether to give 4-(2-chlorophenyl)-3-(2,3-dihydro-5-hydroxy-2,4,6,7-tetramethylbenzofuran-2-ylcarbonyl) amino-6,8-dimethylquinoline (104 mg, 28.2%) as colorless prisms.

reactant | 3-(5-acetoxy-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-ylcarbonyl)amino-4-(2-chlorophenyl) -6,8-dimethylquinoline | 400 ml | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C(=O)NC=2C=NC3=C(C=C(C=C3C2C2=C(C=CC=C2)Cl)C)C)C)C1C)C)C | C32H31ClN2O4
reactant | hydrochloric acid methanol | 10 ml | Cl.CO
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-3-(2,3-dihydro-5-hydroxy-2,4,6,7-tetramethylbenzofuran-2-ylcarbonyl) amino-6,8-dimethylquinoline | 104 mg, 28.2% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(=O)C1(OC2=C(C1)C(=C(C(=C2C)C)O)C)C | C30H29ClN2O3
